US04136256
Preparation of 2-[4-(hexadecylamino)phenyl]-oxazoline
To a slurry of 15 g. of 2-bromoethylamine hydrobromide in 150 ml. of glyme was added simultaneously solutions of 31 g. of 4-(hexadecylamino)benzoyl chloride hydrochloride in 60 ml. of glyme and 50 cc. of triethylamine (dropwise). Upon addition of 0.5 g. of 4-dimethylaminopyridine the "solution" was stirred at room temperature overnight. The solution was refluxed for one hour and filtered. The solid was oven dried and portitioned between CH2Cl and water. The layers were separated and the organic phase dried over MgSO4. The organic layer was concentrated to about 100 ml. and 4-(hexadecylamino)benzoyl chloride hydrochloride diluted with an equal volume of hexane. The combined product (4.15 g.) was preabsorbed on 40 g. of silica III and placed on a column of silica III (800 g.). Fractions were collected by U.V. (CH2Cl2 --EtOH 97-3) and samples with the same TLC combined giving 3.8 g. after recrystallization from cyclohexane. A 210 mg. sample was recrystallized from acetonitrile and CH2Cl2 /hexane giving 149 mg., m.p. 123°-125° C.

reactant | 2-bromoethylamine hydrobromide | Br.BrCCN
reactant | glyme | C(OC)COC | C4H10O2
reactant | 4-(hexadecylamino)benzoyl chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)Cl)C=C1
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-[4-(hexadecylamino)phenyl]-oxazoline | C(CCCCCCCCCCCCCCC)NC1=CC=C(C=C1)C=1OCCN1 | C25H42N2O
